US07419967B2
N-(tetrahydro-2H-pyran-4-yloxy)-4-methoxy-1-benzenesulfonamide.
2-(tetrahydro-2H-pyran-4-yloxy)-1H-isoindole-1,3(2H)-dione (6.8 mmol, 1.69 g) was combined with hydrazine (6.8 mmol, 0.22 mL) in anhydrous THF (20 mL) under nitrogen. The reaction immediately formed a white suspension and was allowed to stir at room temperature for 1 hour. The suspension was filtered directly into a flask containing 4-methoxybenzenesulfonyl chloride (6.5 mmol, 1.34 g) and diisopropylethylamine (20.5 mmol, 3.6 mL) was added. After stirring at room temperature for 15 hours, the reaction was refluxed for 4 hours, then stirred at room temperature for 12 days and concentrated to a yellow solid. The resulting solid was partitioned between ethyl acetate and 1N HCl, and the organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate and brine, and dried over magnesium sulfate. The crude product was concentrated to a white solid and purified by silica gel chromatography (1:1 hexanes/ethyl acetate) and crystallization (hexanes/ethyl acetate) providing 0.554 g (30%) of a white solid. Rf=0.4 (1:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ 7.83(2H,d), 7.00 (2H,d), 6.72 (1H,s), 4.23-4.11 (1H,m), 3.91-3.81 (2H,m), 3.87 (3H,s), 3.46-3.38 (2H,m), 2.03-1.94 (2H,m), 1.63-1.51 (2H,m).

reactant | 2-(tetrahydro-2H-pyran-4-yloxy)-1H-isoindole-1,3(2H)-dione | 6.8 mmol, 1.69 g | O1CCC(CC1)ON1C(C2=CC=CC=C2C1=O)=O | C13H13NO4
reactant | hydrazine | 6.8 mmol, 0.22 mL | NN | H4N2
reactant | 4-methoxybenzenesulfonyl chloride | 6.5 mmol, 1.34 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | diisopropylethylamine | 20.5 mmol, 3.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(tetrahydro-2H-pyran-4-yloxy)-4-methoxy-1-benzenesulfonamide | 0.554 g, 30% | O1CCC(CC1)ONS(=O)(=O)C1=CC=C(C=C1)OC | C12H17NO5S
